US05777068
A reactor was charged with 15.1 g of tris-(methacryloyl)pentaerythritol p-nitrobenzoate, 35.1 g of stannous chloride and 150 ml of tetrahydrofuran. While stirring the contents and chilling with ice water, hydrogen chloride gas was introduced therein. After a reaction was conducted for 1 hour while chilling ice water and subsequently for 1 hour at room temperature, water and sodium carbonate were added to the liquid reaction mixture to weakly alkalify it. The liquid reaction mixture was subjected to extraction with chloroform. Chloroform was distilled out of the chloroform layer under reduced pressure, and the residue was then purified by column chromatography, thereby obtaining 13.8 g (yield: 92.3%) of tris(methacryloyl)pentaerythritol p-aminobenzoate.

reactant | tris-(methacryloyl)pentaerythritol p-nitrobenzoate | 15.1 g | C(C(=C)C)(=O)C(C(C(O)(C(C(=C)C)=O)C(C(=C)C)=O)(CO)CO)O.[N+](=O)([O-])C1=CC=C(C(=O)[O-])C=C1
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | hydrogen chloride | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | tris(methacryloyl)pentaerythritol p-aminobenzoate | 13.8 g, yield: 92.3% | C(C(=C)C)(=O)C(C(C(O)(C(C(=C)C)=O)C(C(=C)C)=O)(CO)CO)O.NC1=CC=C(C(=O)[O-])C=C1 | InChI=1S/C17H24O7.C7H7NO2/c1-9(2)12(20)15(23)16(7-18,8-19)17(24,13(21)10(3)4)14(22)11(5)6;8-6-3-1-5(2-4-6)7(9)10/h15,18-19,23-24H,1,3,5,7-8H2,2,4,6H3;1-4H,8H2,(H,9,10)/p-1
